US04172829
9-Cyclohexyl-2-n-propoxy-9H-adenine
A solution of 2.21 g. (7.8 mmoles) of 9-(2-cyclohexenyl)-2-n-propoxy-9H-adenine in 30 ml. of 90% ethanol was hydrogenated overnight with 250 mg. of 10% Pd-C and then filtered. The filtrate was evaporated in vacuo, giving a residue which was crystallized from ethyl acetate-n-hexane. Yield 1.85 g. (76%); m.p. 148°-150° C. IR(KBr): 3510, 2930, 1670, 1640, 1595, 1405 cm-1. UV: λmaxMeOH 252 nm (ε 8360), 269 nm (ε 13200). NMR(CDCl3): δ 1.03(3H, t, J=7 Hz), 1.80(12H, m), 4.20(2H, t, J=7 Hz), 4.35(1H, m), 6.02(2H, s), 7.55(1H, s).

reactant | 9-(2-cyclohexenyl)-2-n-propoxy-9H-adenine | 7.8 mmoles | C1(C=CCCC1)N1C2=NC(=NC(=C2N=C1)N)OCCC | C14H19N5O
solvent | ethanol | C(C)O | C2H6O
product | 9-Cyclohexyl-2-n-propoxy-9H-adenine | C1(CCCCC1)N1C2=NC(=NC(=C2N=C1)N)OCCC | C14H21N5O
